2113-11-13 06:54:00 Physician Resident Progress Note
TITLE: [**Hospital Unit Name 1**] Resident Progress Note
   Chief Complaint: AMS/Hypotension/Dysphagia
   24 Hour Events:
   - BP dropped to 70's/40's in the afternoon, gave 500cc bolus NS x2,
   started Vanc/Zosyn.  BP remained in 80
s/60
s, with MAPs in 60
   - ECG showed sinus rhythm with low voltage, nonspecific ST changes,
   ordered TTE
   - Placed A-line
   - Updated Dr. [**Last Name (STitle) 10240**] via email
   - Mental status improved
 ARTERIAL LINE - START [**2113-11-12**] 07:27 PM
 INDWELLING PORT (PORTACATH) - START [**2113-11-12**] 07:29 PM
   Allergies:
   Ibuprofen
   Abdominal pain;
   Aspirin
   Abdominal pain;
   Penicillins
   Abdominal pain;
   Vitamin B Complex
   Hives; Rash on
   Latex
   swelling;
   Last dose of Antibiotics:
   Vancomycin - [**2113-11-12**] 06:29 PM
   Piperacillin - [**2113-11-12**] 09:02 PM
   Infusions:
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2113-11-13**] 03:08 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2113-11-13**] 06:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.7
C (96.2
   Tcurrent: 35.7
C (96.2
   HR: 115 (69 - 120) bpm
   BP: 81/53(63) {72/51(59) - 95/60(71)} mmHg
   RR: 27 (12 - 30) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
    Mixed Venous O2% Sat: 77 - 77
   Total In:
                                                                  2,834 mL
                                                                     66 mL
   PO:
   TF:
   IVF:
                                                                  2,834 mL
                                                                     66 mL
   Blood products:
   Total out:
                                                                    252 mL
                                                                    195 mL
   Urine:
                                                                    252 mL
                                                                    195 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,582 mL
                                                                   -129 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///19/
   Physical Examination
   GENERAL: Somewhat sleepy but arousable, communicative. NAD. Anasarca
   throughout body.
   HEENT: Normocephalic, atraumatic.  Deeply icteric sclera.  Impressive
   oral thrush.  Neck supple, no LAD.
   CARDIAC: Regular rhythm, normal rate. Normal S1, S2. No murmurs, rubs
   or [**Last Name (un) 1011**].
   LUNGS: CTAB, good air movement biaterally. Decreased at bases.
   ABDOMEN: Distended. Mild tympany.  Hypoactive BS.  Non-tender. No
   rebound or guarding.
   EXTREMITIES: 3+ pitting edema to hip.  Port-a-cath right chest wall
   c/d/i.
   SKIN: No rashes/lesions, ecchymoses.
   NEURO: Oriented, responding appropriately.  EOMI, pupils constricted,
   but constrict symmetrically. Moving all extremities, responding to
   commands, grip strength 5/5. Unable to cooperate with exam for
   asterixes.
   Labs / Radiology
   150 K/uL
   14.1 g/dL
   85 mg/dL
   0.8 mg/dL
   19 mEq/L
   4.5 mEq/L
   28 mg/dL
   97 mEq/L
   126 mEq/L
   41.9 %
        [image002.jpg]
                            [**2113-11-12**]  04:00 PM
                            [**2113-11-13**]  04:30 AM
   Hct
   41.9
   Plt
   150
   Cr
   0.6
   0.8
   Glucose
   90
   85
   Other labs: PT / PTT / INR:18.0/150.0/1.6, ALT / AST:228/248, Alk Phos
   / T Bili:776/16.8, Lactic Acid:1.6 mmol/L, Albumin:1.9 g/dL, LDH:557
   IU/L, Ca++:7.1 mg/dL, Mg++:2.5 mg/dL, PO4:4.2 mg/dL
   [**11-12**] Blood culture pending
   [**11-12**] CMV IgG, IgM antibody pending
   [**11-12**] CMV Viral load pending
   [**11-12**] MRSA screen pending
   [**11-12**] Urine culture pending
   [**11-12**] HSV Ab pending
   TSH 0.94
   Cortisol 11.7
   Albumin 1.9
   Assessment and Plan
   45F with breast cancer with mets to bone and liver presenting with
   dysphagia and hypotension
   .
   #.  Hypotension. Likely dehydration in setting of poor PO intake with
   dysphagia, diuretic use, high BUN/cr ratio and hyponatremia.  Also on
   ddx is infection/sepsis given pt's immunocompromised state, PE,
   splanchnic pooling in setting of ESLD, bleeding unlikely given stable
   to elevated hematocrit.  Pt now s/p 5.5L IVF and BP stable with MAPs in
   the 60
s-70
   - Continue IVF boluses as needed for MAP<60, although patient is likely
   third spacing IVF with such a low albumin.  Will give sodium bicarb in
   fluid if needs further fluid resuscitation
   - F/u blood, urine cultures
   - Continue Vanc/Zosyn for now but may not need antibiotics if
   clinically improves and cultures negative, sepsis less likely at this
   time
   - Will triple home steroid dose to give stress dose steroids in this
   acute illness; patient likely has some adrenal insufficiency
   - Hold diuresis for now
   - Likely contributed to by hypovolemic hyponatremia second to third
   spacing
   - TTE today to assess for pericardial effusion in setting of low
   voltage on ECG, hypotension, metastatic cancer
   - Can consider albumin to help keep fluids intravascularly
   .
   #.  Altered mental status: Likely from dilaudid use and hepatic
   encephalopathy.  Feel that less likely is hypoperfusion from
   hypotension,  infection, less likely hypercalcemia or brain metastases.
   -hold dilaudid for now, if needed, use 0.25mg doses
   -adjunct pain medication with topical lidocaine/maalox/diphenhydramine
   rinse
   -Narcan if concern for respiratory status
   - f/u cultures
    -lactulose for a few doses to see if improves mental status
   - Will get CT head to evaluate for metastatic disease, as could  be
   causing altered mental status
   .
   #.  Dysphagia - Pt immunocopromised on chemo and steroids, also with
   liver failure, white plaques in oropharynx suggestive of thrush, making
   esophageal candidiasis most likely, also on ddx includes viral
   esophagitis (CMV, HSV).  Obstruction unlikely given recent CT chest not
   showing bulky disease in chest, and would be less likely to cause pain.
   -rx for now for candidal esophagitis with fluconazole 200mg daily for
   14-21 days.
   -check CMV Ab and VL, HSV Ab
   -Consider GI c/s for scope if no improvement in 72 hours.
   .
   #.  Liver failure - Pt with known extensive liver mets.  No evidence of
   biliary obstruction on ultrasound.  Liver disease significant with
   hepatic encephalopathy and elevated LFTs and T Bili.
   -f/u final read u/s
   -hold diuretics for now
   -aggressive nutrition
   -lactulose
   .
   #. Elevated Coags: Likely due to decreased synthetic function in the
   liver.
   - Send DIC labs
   - Evaluate possible contribution of lovenox and whether she is on the
   correct dose
   .
   #   Breast cancer
   -d/w Dr. [**Last Name (STitle) 10240**] re continuing carboplatin
   - will get head CT as above
   .
   #.  Hypercalcemia.  A recurrent problem for this patient with widely
   metastatic cancer. Corrected ca has normalized
   -continue to monitor
   .
   #.  DVT
 lovenox as above
   ICU Care
   Nutrition: Full liquids with supplement, nutrition consult pending,
   will advance to pudding
   Glycemic Control:  None
   Lines: Arterial Line - [**2113-11-12**] 07:27 PM
   Indwelling Port (PortaCath) - [**2113-11-12**] 07:29 PM
   20 Gauge - [**2113-11-12**] 07:30 PM
   Prophylaxis:
   DVT: Lovenox
   Stress ulcer: IV Pantoprazole
   VAP:
   Comments:
   Communication:  Comments: Sister, [**Name (NI) 1705**] [**Name (NI) 11826**] (HCP)
   [**Name (NI) 36**] status: Full code for now, will re-address, possibly today
   Disposition: ICU for now

2113-11-13 10:19:00 Physician Attending Progress Note
Chief Complaint: Hypotension
   Altered Mental Status
   HPI:
   24 Hour Events:
 ARTERIAL LINE - START [**2113-11-12**] 07:27 PM
 INDWELLING PORT (PORTACATH) - START [**2113-11-12**] 07:29 PM
   -Patient with improved alertness but with significant confusion
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   Ibuprofen
   Abdominal pain;
   Aspirin
   Abdominal pain;
   Penicillins
   Abdominal pain;
   Vitamin B Complex
   Hives; Rash on
   Latex
   swelling;
   Last dose of Antibiotics:
   Vancomycin - [**2113-11-12**] 06:29 PM
   Piperacillin - [**2113-11-12**] 09:02 PM
   Piperacillin/Tazobactam (Zosyn) - [**2113-11-13**] 08:24 AM
   Infusions:
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2113-11-13**] 03:08 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Flowsheet Data as of  [**2113-11-13**] 10:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.7
C (96.2
   Tcurrent: 35.7
C (96.2
   HR: 125 (69 - 125) bpm
   BP: 94/68(78) {72/51(59) - 95/68(347)} mmHg
   RR: 32 (12 - 32) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Mixed Venous O2% Sat: 77 - 77
   Total In:
                                                                  2,834 mL
                                                                    199 mL
   PO:
   TF:
   IVF:
                                                                  2,834 mL
                                                                    199 mL
   Blood products:
   Total out:
                                                                    252 mL
                                                                    245 mL
   Urine:
                                                                    252 mL
                                                                    245 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,582 mL
                                                                    -46 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///19/
   Physical Examination
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Distended, No(t) Tender:
   Extremities: Right lower extremity edema: 3+, Left lower extremity
   edema: 3+
   Skin:  Not assessed
   Neurologic: No(t) Attentive, Follows simple commands, Responds to:
   Verbal stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   14.1 g/dL
   150 K/uL
   85 mg/dL
   0.8 mg/dL
   19 mEq/L
   4.5 mEq/L
   28 mg/dL
   97 mEq/L
   126 mEq/L
   41.9 %
   7.7 K/uL
        [image002.jpg]
                            [**2113-11-12**]  04:00 PM
                            [**2113-11-13**]  04:30 AM
   WBC
   7.7
   Hct
   41.9
   Plt
   150
   Cr
   0.6
   0.8
   Glucose
   90
   85
   Other labs: PT / PTT / INR:18.0/150.0/1.6, ALT / AST:228/248, Alk Phos
   / T Bili:776/16.8, Differential-Neuts:88.0 %, Band:2.0 %, Lymph:4.0 %,
   Mono:5.0 %, Eos:1.0 %, Lactic Acid:1.6 mmol/L, Albumin:1.9 g/dL,
   LDH:557 IU/L, Ca++:7.1 mg/dL, Mg++:2.5 mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
   45 yo female with metastatic breast cancer who has extensive metastatic
   disease with substantial liver involvement and compromised hepatic
   function who has come in with significant hypotension in the setting of
   dilaudid Rx for significant pain from esophagitis and mucositis
   presumed.  This, in the setting of significant compromise of hepatic
   function may well have contributed to persistent and significant
   altered mental status acros time.  Mental status has improved as
   dilaudid had been metabolized.  The hyptension has persisted and is
   within the range of where patient has been documented to be recently at
   home.  This is with improved mental status this morning.  She has
   persistent hypotension through to this morning but without obvious
   source for acute worsening of stability.  Investigation of the primary
   issue would suggest--preload has been repleted, sources of vasodilatory
   insult including adrenal failure, hypthyroidism and sepsis appear less
   likely.  We have the persistent and resting tacycardia likely
   represents cardiac compromise and does raise concern for possible
   compromise SV.  The issue may be patient with continued loss of
   intravascular volume.
   1)Hypotension-
   -Will have to evaluate ECHO today
   -Will have to fluid bolus as needed
   -Will need to finalize any culture results in regards to bacterial
   infection but do not have clear evidcence of it.
   -If ECHO reassuring will need to consider
intravascular volume
   depletion + effects of narcotics as most likely cause for hypotension
   and manage appropriately going forward
   2)Altered Mental Status-Much improved today with patient alert,
   interactive and responsive as well as oriented
   Lactulose
   Careful use of narcotics
   3)Mucositis?-
   -Local therapy for control
   -Narcotics PRN only
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 .H/O CANCER (MALIGNANT NEOPLASM), BREAST
 HYPOTENSION (NOT SHOCK)
   ICU Care
   Nutrition: PO diet
will need control of pain as possible.
   Glycemic Control:
   Lines:
   Arterial Line - [**2113-11-12**] 07:27 PM
   Indwelling Port (PortaCath) - [**2113-11-12**] 07:29 PM
   Prophylaxis:
   DVT: LMW Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: Discussed with patient
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2113-11-14 06:50:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -PM UOP: 400 cc at 4pm
   -albumin 500 cc given 12-2pm, changed to [**Hospital1 7**] to maintain UOP
   -HR persistent 120s
   -CMV VL 50,000, started IV Ganciclovir
   - plan for head CT overnight: never got it
   History obtained from Patient
   Allergies:
   History obtained from PatientIbuprofen
   Abdominal pain;
   Aspirin
   Abdominal pain;
   Penicillins
   Abdominal pain;
   Vitamin B Complex
   Hives; Rash on
   Latex
   swelling;
   Last dose of Antibiotics:
   Piperacillin - [**2113-11-12**] 09:02 PM
   Fluconazole - [**2113-11-13**] 04:45 PM
   Vancomycin - [**2113-11-13**] 07:41 PM
   Gancyclovir - [**2113-11-13**] 10:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2113-11-14**] 12:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Albumin 5% (25g / 500mL) 3. Albumin 5% (25g / 500mL) 4. Dexamethasone
   5. Enoxaparin Sodium
   6. Fluconazole 7. Ganciclovir 8. HYDROmorphone (Dilaudid) 9. Heparin
   Flush (10 units/ml) 10. Heparin Flush (100 units/ml)
   11. Lactulose 12. Maalox/Diphenhydramine/Lidocaine 13. Ondansetron 14.
   Pantoprazole 15. Piperacillin-Tazobactam
   16. Vancomycin
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:  still difficulty with swallowing, overall feels
   stronger, no CP/SOB/abd pain
   Flowsheet Data as of  [**2113-11-14**] 06:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 35.6
C (96.1
   HR: 122 (109 - 128) bpm
   BP: 113/63(79) {82/57(68) - 126/83(347)} mmHg
   RR: 31 (22 - 36) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 62 Inch
           Total In:
                                                                  1,740 mL
                                                                    766 mL
   PO:
                                                                    400 mL
                                                                    100 mL
   TF:
   IVF:
                                                                    840 mL
                                                                    166 mL
   Blood products:
                                                                    500 mL
                                                                    500 mL
   Total out:
                                                                    767 mL
                                                                    390 mL
   Urine:
                                                                    767 mL
                                                                    390 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    973 mL
                                                                    376 mL
   Respiratory support
   SpO2: 100%
   ABG: ///20/
   Physical Examination
   Gen: NAD
   HEENT: icteric eyes
   CV: RRR nl s1/s2 no murmurs
   Pulm: CTA b/l
   Abd: +BS, soft, NT ND
   Ext: 2+ b/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) **]
   Neuro: cns intact, sensation and motor intact, A OX3, finger to nose
   intact, +asterixis
   TTE [**11-13**]
   Overall left ventricular systolic function is normal (LVEF>55%). There
   is a trivial/physiologic pericardial effusion. There is an anterior
   space which most likely represents a fat pad.
   IMPRESSION: Suboptimal image quality. Trivial pericardial effusion
   without evidence of tamponade.
   Labs / Radiology
   117 K/uL
   10.3 g/dL
   150 mg/dL
   0.8 mg/dL
   20 mEq/L
   3.9 mEq/L
   28 mg/dL
   97 mEq/L
   128 mEq/L
   29.8 %
   6.4 K/uL
        [image002.jpg]
                            [**2113-11-12**]  04:00 PM
                            [**2113-11-13**]  04:30 AM
                            [**2113-11-13**]  02:38 PM
                             [**2113-11-14**]  05:10 AM
   WBC
   7.7
   6.4
   Hct
   41.9
   29.8
   Plt
   150
   117
   Cr
   0.6
   0.8
   0.9
   0.8
   Glucose
   90
   85
   102
   150
   Other labs: PT / PTT / INR:18.0/100.2/1.6, ALT / AST:150/200, Alk Phos
   / T Bili:515/18.3, Differential-Neuts:88.0 %, Band:2.0 %, Lymph:4.0 %,
   Mono:5.0 %, Eos:1.0 %, Fibrinogen:206 mg/dL, Lactic Acid:1.6 mmol/L,
   Albumin:1.9 g/dL, LDH:557 IU/L, Ca++:7.4 mg/dL, Mg++:2.7 mg/dL, PO4:2.6
   mg/dL
   Imaging: final abd u/s
   1. Collapsed gallbladder, without acute cholecystitis. Limited
   assessment
   for cholelithiasis. Normal CBD. No gross evidence of intrahepatic
   ductal
   dilatation.
   2. Multiple focal hepatic hypodensities, compatible with known
   metastatic
   disease to the liver.
   3. Moderate right hydronephrosis, essentially unchanged.
   4. Moderate amount of ascites.
   Microbiology: urine ctx [**11-12**] negative (final)
   CMV VL   52,400 copies/ml [**11-12**]
   CMB Abs pending
   blood ctx [**11-12**] pending
   Assessment and Plan
 HEPATIC FAILURE, FULMINANT
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 .H/O CANCER (MALIGNANT NEOPLASM), BREAST
 HYPOTENSION (NOT SHOCK)
   45F with breast cancer with mets to bone and liver presenting with
   dysphagia and hypotension
   #.  Dysphagia - Pt immunocopromised on chemo and steroids, also with
   liver failure, white plaques in oropharynx suggestive of thrush,
   however positive for CMV.  Obstruction unlikely given recent CT chest
   not showing bulky disease in chest, and would be less likely to cause
   pain.
   -rx for now for candidal esophagitis with fluconazole 200mg daily for
   14-21 days given thrush on exam, now also on Ganciclovir since [**11-13**].
   -Consider GI c/s for scope if no improvement in 72 hours.
   #.  Hypotension. Likely dehydration in setting of poor PO intake with
   dysphagia, diuretic use, high BUN/cr ratio and hyponatremia.  Also on
   ddx is infection/sepsis given pt's immunocompromised state, PE,
   splanchnic pooling in setting of ESLD, bleeding unlikely given stable
   to elevated hematocrit at admission.  MAPS now high 70s.
   - continue albumin dose at noon today, dose with spironolactone and
   lasix given peripheral edema
   - F/u blood, urine cultures
   - d/c Vanc/Zosyn as sepsis unlikely with negative blood ctx X48H.
   - Tripped home steroids [**11-13**] to give stress dose steroids in this
   acute illness; patient likely has some adrenal insufficiency, plan for
   3 days of this
   - Likely contributed to by hypovolemic hyponatremia second to third
   spacing
   .
   #.  Altered mental status: Likely from dilaudid use and hepatic
   encephalopathy.  Feel that less likely is hypoperfusion from
   hypotension,  infection, less likely hypercalcemia or brain metastases.
     Overall improved today, might be because of increased perfusion of
   prain.  CMV could also account for mental status changes rarely.
   -hold dilaudid for now, if needed, use 0.25mg doses
   -adjunct pain medication with topical lidocaine/maalox/diphenhydramine
   rinse
   -Narcan if concern for respiratory status
   - f/u cultures
    -lactulose seems to have cleared MS some, continue
   - will hold on head CT for now given improvement and likely need for
   contrast to evaluate mets
   #  tachycardia: could be secondary to intravascular depletion, however
   this is improving with BPs.  Could also be from pain.  Diff dx includes
   PE, however would likely not alter management and would require dye for
   CTA.
   -continue volume repletion
   #.  Liver failure - Pt with known extensive liver mets.  No evidence of
   biliary obstruction on ultrasound.  Liver disease significant with
   hepatic encephalopathy and elevated LFTs and T Bili.  Cpuld also be
   caused by CMV.
   -hold diuretics for now
   -aggressive nutrition
   -lactulose
   # Hct drop: likely dilutional.  recheck at 1pm with platelets as well
   -guiaic stools
   -active T&S
   #. Elevated Coags: Likely due to decreased synthetic function in the
   liver. Now trending down except for bili.  DIC labs normal.  Lovenox
   Factor Xa appropriate at 0.88.
   #   Breast cancer
   -per Dr. [**Last Name (STitle) 10240**] hospice care sounds appropriate discussion.
   #.  Hypercalcemia.  A recurrent problem for this patient with widely
   metastatic cancer. Corrected ca has normalized to 9.1
   -continue to monitor
   #.  DVT
 lovenox as above
   ICU Care
   Nutrition: regular diet
   Glycemic Control:
   Lines:
   Arterial Line - [**2113-11-12**] 07:27 PM
   Indwelling Port (PortaCath) - [**2113-11-12**] 07:29 PM
   Prophylaxis:
   DVT: LMW Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: full
   Disposition: discuss with HCP (sister ) and patient today regarding
   level of care and possibility of hospice

2113-11-14 11:53:00 Physician Attending Progress Note
Chief Complaint: Hypotension
   Altered Mental Status
   Breast Cancer
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   -Patient with persistent tachycardia
   -Has had some improvement in urine output with albumin maintained as
   [**Hospital1 7**] dosing
   -CMV viral load elevated
   -TEE with preserved systolic and diastolic function
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   Ibuprofen
   Abdominal pain;
   Aspirin
   Abdominal pain;
   Penicillins
   Abdominal pain;
   Vitamin B Complex
   Hives; Rash on
   Latex
   swelling;
   Last dose of Antibiotics:
   Piperacillin - [**2113-11-12**] 09:02 PM
   Fluconazole - [**2113-11-13**] 04:45 PM
   Piperacillin/Tazobactam (Zosyn) - [**2113-11-14**] 08:00 AM
   Vancomycin - [**2113-11-14**] 08:40 AM
   Gancyclovir - [**2113-11-14**] 10:40 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Cardiovascular: Tachycardia
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2113-11-14**] 11:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.2
C (97.1
   HR: 117 (108 - 128) bpm
   BP: 128/75(92) {92/57(69) - 131/83(97)} mmHg
   RR: 25 (21 - 36) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 62 Inch
           Total In:
                                                                  1,740 mL
                                                                  1,365 mL
   PO:
                                                                    400 mL
                                                                    250 mL
   TF:
   IVF:
                                                                    840 mL
                                                                    615 mL
   Blood products:
                                                                    500 mL
                                                                    500 mL
   Total out:
                                                                    767 mL
                                                                    650 mL
   Urine:
                                                                    767 mL
                                                                    650 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    973 mL
                                                                    715 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///20/
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 4+, Left lower extremity
   edema: 4+
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.3 g/dL
   117 K/uL
   150 mg/dL
   0.8 mg/dL
   20 mEq/L
   3.9 mEq/L
   28 mg/dL
   97 mEq/L
   128 mEq/L
   29.8 %
   6.4 K/uL
        [image002.jpg]
                            [**2113-11-12**]  04:00 PM
                            [**2113-11-13**]  04:30 AM
                            [**2113-11-13**]  02:38 PM
                             [**2113-11-14**]  05:10 AM
   WBC
   7.7
   6.4
   Hct
   41.9
   29.8
   Plt
   150
   117
   Cr
   0.6
   0.8
   0.9
   0.8
   Glucose
   90
   85
   102
   150
   Other labs: PT / PTT / INR:18.0/100.2/1.6, ALT / AST:150/200, Alk Phos
   / T Bili:515/18.3, Differential-Neuts:88.0 %, Band:2.0 %, Lymph:4.0 %,
   Mono:5.0 %, Eos:1.0 %, Fibrinogen:206 mg/dL, Lactic Acid:1.6 mmol/L,
   Albumin:1.9 g/dL, LDH:557 IU/L, Ca++:7.4 mg/dL, Mg++:2.7 mg/dL, PO4:2.6
   mg/dL
   Assessment and Plan
   45 yo female with metastatic breast cancer now with presentation with
   significant hypotension in the setting of increased dosing of dilaudid
   needed for severe oral/esophageal pain which in the setting of
   significant hepatic dysfunction may have had prolonged effects and now
   with time patient has had substantial improvement in mental status and
   blood pressure and now is faced with modest persistent renal
   dysfunction and extra-vascular volume overload.  This has all trended
   to better with most prominent issue going forward working to establish
   a regimen to provide stability in regards to volume status with likely
   role for diuretics with caution given recent hypotension.
   1)Altered Mental Status-
   -Lactulose
   -Dilaudid minimized
   -Blood pressure improved
   -Will continue to monitor exam but very reassuring now
   2)Hypotension-This is likely a combination of narcotics with extensive
   impact in the setting of ongoing difficulty with intravascular volume
   with hepatic failure.
   -Vanco/Zosyn
will D/C if cultures negative at 72 hours
   -Dex 12mg IV qd
   -Albumin [**Hospital1 7**]
   -GCV in place
   -Will move to D/C albumin at 48 hours with hope for improved balance
   across time
   3)Oliguria-Patient has significant oliguria but preserved Creatinine
   levels
we have seen increase in urine output across time
   -Will continue with Albumin across time
   -Will move to standing diuretic starting at low dose
   4)CANCER (MALIGNANT NEOPLASM), BREAST-
   -Appreciate Dr. [**Last Name (STitle) 10240**]
s input
   -Will work to discuss with family goals of her care and path to
   treatment from here
   5)Hepatic Failure-
   -Patient with persistent hyperbilirubinemia and elevation of AP with
   mild persistent elevation of transaminases
   -Continue with lactulose
   -Will need to maintain
   6)Esophagitis-Likely a combination of fungal and viral contribution
   -Will continue with Fluconazole as well as gancyclovir
   -Local pain control
   ICU Care
   Nutrition: PO trial
   Glycemic Control:
   Lines:
   Arterial Line - [**2113-11-12**] 07:27 PM
   Indwelling Port (PortaCath) - [**2113-11-12**] 07:29 PM
   Prophylaxis:
   DVT: LMW Heparin-Held yesterday
will continue today
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes

2113-11-15 07:50:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2113-11-15**] 06:02 AM
   - on aldactone/lasix 100/40 at home
   - pt given only 20mg IV lasix due to hct drop
   - developed BRBPR, gave vitamin K and stopped enoxaparin
   - Hct dropped but increased in pm check
   - pharmacy says it's very strange to have elevated PTT from lovenox,
   but could try protamine if we think elevated PTT due to lovenox: dose
   would be 1mg for every 1mg lovenox given and if PTT (or PT since PT
   responds first) still elevated after 4H, give 0.5mg for each 1 of
   lovenox
   - meeting with [**Doctor First Name 1705**] (sis) tentatively 2pm [**11-15**]
   - course for Ganciclovir for immunocompromised pt [**Name (NI) **] is 3-6 weeks
   depending on if sxs are resolving
   -repleted K, net positive 300 cc yesterday
   This AM, reports she is feeling fatigued, but otherwise improved.
   Throat is less painful and she is able to swallow more.  No
   nausea/vomiting.  No dizziness, lightheadedness or palpitations.
   Allergies:
   Ibuprofen
   Abdominal pain;
   Aspirin
   Abdominal pain;
   Penicillins
   Abdominal pain;
   Vitamin B Complex
   Hives; Rash on
   Latex
   swelling;
   Last dose of Antibiotics:
   Piperacillin - [**2113-11-12**] 09:02 PM
   Fluconazole - [**2113-11-13**] 04:45 PM
   Vancomycin - [**2113-11-14**] 08:29 PM
   Gancyclovir - [**2113-11-14**] 10:19 PM
   Piperacillin/Tazobactam (Zosyn) - [**2113-11-15**] 12:18 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2113-11-14**] 05:19 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2113-11-15**] 07:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.4
C (97.5
   HR: 94 (94 - 126) bpm
   BP: 99/68(75) {96/59(70) - 108/70(77)} mmHg
   RR: 28 (20 - 37) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 74.5 kg (admission): 72.2 kg
   Height: 62 Inch
             Total In:
                                                                  2,572 mL
                                                                    194 mL
   PO:
                                                                    350 mL
             TF:
   IVF:
                                                                  1,222 mL
                                                                    194 mL
   Blood products:
                                                                  1,000 mL
   Total out:
                                                                  2,255 mL
                                                                    355 mL
   Urine:
                                                                  2,255 mL
                                                                    355 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    317 mL
                                                                   -161 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///24/
   Physical Examination
   General Appearance: No acute distress, alert and oriented
   Eyes / Conjunctiva: PERRL, scleral icterus
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: RRR, S1, S2, no murmurs, rubs or gallops
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   bilaterally)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right lower extremity edema: 3+, Left lower extremity
   edema: 3+, left > right
   Skin:  Warm, Jaundice, weeping in places over abdomen
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli
   Labs / Radiology
   110 K/uL
   10.5 g/dL
   107 mg/dL
   0.7 mg/dL
   24 mEq/L
   4.1 mEq/L
   18 mg/dL
   97 mEq/L
   127 mEq/L
   31.2 %
   7.1 K/uL
        [image002.jpg]
                            [**2113-11-12**]  04:00 PM
                            [**2113-11-13**]  04:30 AM
                            [**2113-11-13**]  02:38 PM
                             [**2113-11-14**]  05:10 AM
                             [**2113-11-14**]  02:05 PM
                             [**2113-11-14**]  07:38 PM
                             [**2113-11-15**]  05:20 AM
   WBC
   7.7
   6.4
   7.0
   6.3
   7.1
   Hct
   41.9
   29.8
   32.5
   31.2
   31.2
   Plt
   150
   117
   128
   117
   110
   Cr
   0.6
   0.8
   0.9
   0.8
   0.7
   0.7
   Glucose
   90
   85
   102
   150
   118
   107
   Other labs: PT / PTT / INR:17.0/106.6/1.5, ALT / AST:145/192, Alk Phos
   / T Bili:493/20.6, Differential-Neuts:72.7 %, Band:0.0 %, Lymph:24.2 %,
   Mono:2.9 %, Eos:0.2 %, Fibrinogen:206 mg/dL, Lactic Acid:1.6 mmol/L,
   Albumin:1.9 g/dL, LDH:557 IU/L, Ca++:7.8 mg/dL, Mg++:2.8 mg/dL, PO4:1.7
   mg/dL
   No Cx pending
   No CXR today
   Assessment and Plan
   45F with breast cancer with mets to bone and liver presenting with
   dysphagia and hypotension and now with BRPBR.
   # GI Bleed: BRBPR yesterday.  Gave vitamin K and stopped enoxaparin.
   Subsequent Hct have been stable at 31.  No further episodes of red
   blood in stool. PTT continues to be elevated.
   -continue [**Hospital1 7**] Hct
   -consider protamine if further episodes bleeding or Hct drop
   .
   #.  Dysphagia - Pt immunocopromised on chemo and steroids, also with
   liver failure, white plaques in oropharynx suggestive of thrush,
   however positive for CMV.  Obstruction unlikely given recent CT chest
   not showing bulky disease in chest, and would be less likely to cause
   pain.
   -Cotinue fluconazole for candidal esophagitis for 14-21 days
   - continue Ganciclovir ([**11-13**]-present); course for immunocompromised pt
   [**Name (NI) **] is 3-6 weeks, which is appropriate in this case.
   #.  Hypotension: Improved, likely dehydration in setting of poor PO
   intake with dysphagia, diuretic use, high BUN/cr ratio and
   hyponatremia.  Also on ddx is infection/sepsis given pt's
   immunocompromised state, PE, splanchnic pooling in setting of ESLD,
   bleeding unlikely given stable to elevated hematocrit at admission.
   MAPS now high 70s.
   - prn albumin if becomes acutely hypotensive or tachycardia worsens
   - d/c Vanc/Zosyn as sepsis unlikely with negative blood ctx X48H.
   - Trippled home steroids [**11-13**] to give stress dose steroids in this
   acute illness; patient likely has some adrenal insufficiency, plan for
   3 days of this (last day today)
   - Likely contributed to by hypovolemic hyponatremia second to third
   spacing
   .
   # Liver Failure - Pt with known extensive liver mets.  No evidence of
   biliary obstruction on ultrasound.  Liver disease significant with
   hepatic encephalopathy and elevated LFTs and T Bili.  Could also be
   caused by CMV.  Liver dysfunction is likely contributing to full body
   volume overload, leading to peripheral edema and ascites.
   -plan to restart home dose PO lasix and aldactone today
   - prn albumin as above
   -aggressive nutrition
   - hold lactulose for now
   .
   #.  Altered mental status: Resolved. Likely from dilaudid use and
   hepatic encephalopathy.  Feel that less likely is hypoperfusion from
   hypotension, infection, less likely hypercalcemia or brain
   metastases.   Overall improved today, might be because of increased
   perfusion of prain.  CMV could also account for mental status changes
   rarely.
   -hold dilaudid for now, if needed, use 0.25mg doses
   -adjunct pain medication with topical lidocaine/maalox/diphenhydramine
   rinse
   -pt has not been receiving lactulose regularly; will only use if mental
   status worsens
   - will hold on head CT for now given improvement and likely need for
   contrast to evaluate mets
   .
   #  tachycardia: could be secondary to intravascular depletion, however
   this is improving with BPs.  Could also be from pain.  Diff dx includes
   PE, however would likely not alter management and would require dye for
   CTA.
   -continue volume repletion prn
   -continue telemetry monitoring
   .
   #. Elevated Coags: Likely due to decreased synthetic function in the
   liver. Now trending down except for bili.  DIC labs normal.  Lovenox
   Factor Xa appropriate at 0.88.
   -lovenox stopped
   -consider protamine if further bleeding as above
   #   Breast cancer
   -per Dr. [**Last Name (STitle) 10240**] hospice care sounds appropriate discussion.
   ICU Care
   Nutrition: Regular diet
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2113-11-12**] 07:29 PM
   18 Gauge - [**2113-11-14**] 02:04 PM
   Prophylaxis:
   DVT: venodynes (lovenox stopped)
   Stress ulcer: pantoprazole
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full Code
   Disposition: Likely call out to floor today.  Family meeting with HCP
   today at 2pm.

2113-11-15 11:53:00 Physician Attending Progress Note
Chief Complaint: Hypotension
   Breast Cancer
   Altered Mental Status
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2113-11-15**] 06:02 AM
   patient with BRBPR yesterday
   Oral pain improved
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   Ibuprofen
   Abdominal pain;
   Aspirin
   Abdominal pain;
   Penicillins
   Abdominal pain;
   Vitamin B Complex
   Hives; Rash on
   Latex
   swelling;
   Last dose of Antibiotics:
   Piperacillin - [**2113-11-12**] 09:02 PM
   Fluconazole - [**2113-11-13**] 04:45 PM
   Piperacillin/Tazobactam (Zosyn) - [**2113-11-15**] 08:20 AM
   Vancomycin - [**2113-11-15**] 08:45 AM
   Gancyclovir - [**2113-11-15**] 10:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2113-11-14**] 05:19 PM
   Pantoprazole (Protonix) - [**2113-11-15**] 08:03 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Cardiovascular: Tachycardia
   Flowsheet Data as of  [**2113-11-15**] 11:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 35.9
C (96.7
   HR: 121 (94 - 126) bpm
   BP: 97/70(77) {96/59(70) - 108/70(77)} mmHg
   RR: 24 (20 - 37) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 74.5 kg (admission): 72.2 kg
   Height: 62 Inch
             Total In:
                                                                  2,572 mL
                                                                    645 mL
   PO:
                                                                    350 mL
             TF:
   IVF:
                                                                  1,222 mL
                                                                    645 mL
   Blood products:
                                                                  1,000 mL
   Total out:
                                                                  2,255 mL
                                                                    465 mL
   Urine:
                                                                  2,255 mL
                                                                    465 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    317 mL
                                                                    180 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///24/
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 4+, Left lower extremity
   edema: 4+
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.5 g/dL
   110 K/uL
   107 mg/dL
   0.7 mg/dL
   24 mEq/L
   4.1 mEq/L
   18 mg/dL
   97 mEq/L
   127 mEq/L
   31.2 %
   7.1 K/uL
        [image002.jpg]
                            [**2113-11-12**]  04:00 PM
                            [**2113-11-13**]  04:30 AM
                            [**2113-11-13**]  02:38 PM
                             [**2113-11-14**]  05:10 AM
                             [**2113-11-14**]  02:05 PM
                             [**2113-11-14**]  07:38 PM
                             [**2113-11-15**]  05:20 AM
   WBC
   7.7
   6.4
   7.0
   6.3
   7.1
   Hct
   41.9
   29.8
   32.5
   31.2
   31.2
   Plt
   150
   117
   128
   117
   110
   Cr
   0.6
   0.8
   0.9
   0.8
   0.7
   0.7
   Glucose
   90
   85
   102
   150
   118
   107
   Other labs: PT / PTT / INR:17.0/106.6/1.5, ALT / AST:145/192, Alk Phos
   / T Bili:493/20.6, Differential-Neuts:72.7 %, Band:0.0 %, Lymph:24.2 %,
   Mono:2.9 %, Eos:0.2 %, Fibrinogen:206 mg/dL, Lactic Acid:1.6 mmol/L,
   Albumin:1.9 g/dL, LDH:557 IU/L, Ca++:7.8 mg/dL, Mg++:2.8 mg/dL, PO4:1.7
   mg/dL
   Assessment and Plan
   45 yo female with metastatic breast cancer admitted with oro-pharyngeal
   candidiasis with course complicated by hypotension.  We had substantial
   concern for worsening respiratory status but today has increased
   comfort with limitation on further fluid being given.
   1) GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED,
   GIB)-HCT has been without change
   -Follow stool output
   -Will provide vitamin K for support
   -Will need to consider FFP for any further bleeding
   2)HYPOTENSION-This has been considered multifactorial with relative
   compromise of effective filling pressures, substantial decrease in
   oncotic pressure and vasodilatory effects of dilaudid with prolonged
   impact in the setting of hepatic dysfunction and possible infection
   -Vanco/Zosyn
   -Dex 12mg/d
   -Emiric antibiotics will be D/C
d at 72 hours of culture negative
   -GCV--for positive CMV viral load
   -Will move to aldactone lasix
   3)ALTERED MENTAL STATUS-
   -Lactulose
   4)ORO-PHARYNGEAL PAIN-This is likely related to fungal infection with
   significant pain noted with good response to local treatment
   -Fluconazole to continue
   -Will continue with local Rx
   5)HEPATIC FAILURE--likely secondary to metastatic insult from breast
   cancer mets.
   -Lactulose
   -Lasix/Aldactone
   -Albumin as needed for hypotension was reasonable but not needed now
   -Will need to follow coagulopathy going forward
   ICU Care
   Nutrition: Will move to PO intake today as tolerated.
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2113-11-12**] 07:29 PM
   18 Gauge - [**2113-11-14**] 02:04 PM
   Prophylaxis:
   DVT: Substantial clotting risk but with marked elevation of PTT and GIB
   seen
will move to prophylaxis with boots and need to re-evaluate for
   anticoagulaiton
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes